US04373104
Following the procedure described in Example 19 but starting from 1.67 g. of α-(2-carboxyethyl)-mercapto-6,7-dimethoxy-3,4-dihydro-isoquinolyl-acetonitrile and 5 ml. of isobutanol 1.4 g. of α-[2-(2-butoxycarbonyl)-ethyl]-mercapto-6,7-dimethoxy-3,4-dihydro-1-isoquinolyl-acetonitrile are obtained, melting at 120° C. after recrystallization from absolute ethanol.

reactant | α-(2-carboxyethyl)-mercapto-6,7-dimethoxy-3,4-dihydro-isoquinolyl-acetonitrile | C(=O)(O)CCC(C#N)(C1=NCCC2=CC(=C(C=C12)OC)OC)S | C16H18N2O4S
solvent | isobutanol | 1.4 g | C(C(C)C)O | C4H10O
product | α-[2-(2-butoxycarbonyl)-ethyl]-mercapto-6,7-dimethoxy-3,4-dihydro-1-isoquinolyl-acetonitrile | CC(CC)OC(=O)CCC(C#N)(C1=NCCC2=CC(=C(C=C12)OC)OC)S | C20H26N2O4S
